US05541075
Assignment of the absolute configuration of the TSL-1 and ES 3,6-dideoxyhexose was achieved by GC/MS analysis of the acetylated glycosides formed from chiral 2-octanol. 3M HCl in both (-)-2 and (+)-2 octanol (available from Sigma) were prepared by the dropwise addition of about 256 μl acetyl chloride (available from Mallinkrodt, Inc., Paris, Ken.) to about 1.2 ml octanol. Derivatizations of TSL-1 and ES antigens were achieved by: (a) hydrolysis in 2M TFA at about 121° C. for about 1 hour (hr); (b) octanolysis in either (-)-2 or (+)-2 3M octanol HCl at about 80° C. for about 3 hr; (c) addition of sodium acetate; and (d) acetylation in acetic anhydride at about 100° C. for about 1 hr. The acetylated octyl glycosides were partitioned into the organic phase between about 1 ml chloroform and about 1 ml water, dried, and extracted into acetone (see, for example, Leontein et al., pp. 359-362, 1978, Carbohyd. Res., Vol. 62). Samples were analyzed by GC/MS as above for alditol acetates (total ion chromatogram) or in the selected ion monitoring mode (selecting m/z's of about 83, 85, 112, 145, and 215). Methyl tyvelose (3,6-dideoxy-D-arabinohexose) and Ascaris suum eggs (containing 3,6-dideoxy-L-arabinohexose) were also subjected to hydrolysis, (-)-2 and (+)-2 octanolysis, and acetylation. GC/MS data from the resulting acetylated 3,6-dideoxyarabinohexose octyl glycoside derivatives were compared to those obtained from the TSL-1 and ES antigen samples. Verification of absolute configuration was achieved by co-injection.

reactant | HCl | 3M | Cl | ClH
reactant | acetyl chloride | about 256 μl | C(C)(=O)Cl | C2H3ClO
reactant | octanol HCl | 3M | Cl.C(CCCCCCC)O
reactant | sodium acetate | C(C)(=O)[O-].[Na+]
solvent | TFA | 2M | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
solvent | octanol | about 1.2 ml | C(CCCCCCC)O | C8H18O
product | (+)-2 octanol | CC(CCCCCC)O | C8H18O
